US07687491B2
(11e) 3-Fluoro-4-phenoxybenzoic acid
The title compound (1.1 g) was synthesized in a yield of 93% as a white crystalline solid by conducting a reaction similar to that mentioned in Example 10 (10e) using 3,4-difluorobenzaldehyde (0.71 g, 5.0 mmol), phenol (0.56 g, 6.0 mmol), potassium carbonate (1.4 g, 10 mmol), 2-methyl-2-butene (2.5 mL, 23 mmol), potassium dihydrogenphosphate (1.6 g, 12 mmol), and sodium hypochlorite (1.3 g, 14 mmol).

reactant | 3,4-difluorobenzaldehyde | 5.0 mmol, 0.71 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | phenol | 6.0 mmol, 0.56 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-2-butene | 23 mmol, 2.5 mL | CC(C)=CC | C5H10
reactant | potassium dihydrogenphosphate | 12 mmol, 1.6 g | P(=O)(O)(O)[O-].[K+]
reactant | sodium hypochlorite | 14 mmol, 1.3 g | Cl[O-].[Na+]
product | 3-Fluoro-4-phenoxybenzoic acid | 1.1 g, yield of 93% | FC=1C=C(C(=O)O)C=CC1OC1=CC=CC=C1 | C13H9FO3
